US05728835
N-Formylmethyl-N-(2-methoxyphenyl)-4-phthalimidomethylbenzamide
N-(2-Methoxyphenyl)-N-(1,3-dioxolan-2-yl)methyl-4-phthalimidomethylbenzamide (450 mg, 0.953 mmol) was dissolved in THF (6 ml) to which was subsequently added 10% hydrochloric acid (4 ml) at room temperature. After 2 hours of stirring at 60° C., the resulting reaction solution was extracted with chloroform and washed with saturated brine. The resulting organic layer was dried on anhydrous magnesium sulfate, the solvent was removed by evaporation and then the resulting residue was mixed with 5 ml of chloroform to remove insoluble materials by filtration, thereby obtaining 300 mg (73.5%) of the title compound in the form of yellow oil which was used in the subsequent reaction without further purification.

reactant | N-(2-Methoxyphenyl)-N-(1,3-dioxolan-2-yl)methyl-4-phthalimidomethylbenzamide | 0.953 mmol, 450 mg | COC1=C(C=CC=C1)N(C(C1=CC=C(C=C1)CN1C(C=2C(C1=O)=CC=CC2)=O)=O)CC2OCCO2 | C27H24N2O6
reactant | hydrochloric acid | 4 ml | Cl | ClH
solvent | THF | 6 ml | C1CCOC1 | C4H8O
product | N-Formylmethyl-N-(2-methoxyphenyl)-4-phthalimidomethylbenzamide | 300 mg, 73.5% | C(=O)CN(C(C1=CC=C(C=C1)CN1C(C=2C(C1=O)=CC=CC2)=O)=O)C2=C(C=CC=C2)OC | C25H20N2O5
